US03950330
3-[[(5-Methyl-1,3,4-thiadiazol-2-yl)thio]methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A mixture of 13.6 g. (0.05 M) of 7-aminocephalosporanic acid in 100 ml. of water and 50 ml. of acetone are brought to pH 8 with sodium hydroxide while stirring. 9.8 g. (0.57 M) of 3-methyl-1,3,4-thiadiazole-5-thiol are added and the mixture is heated at 80° for 4 hours. After cooling to 5°, this is acidified to pH 3.5 with dilute hydrochloric acid and stirred for 15 minutes. The precipitated solid is filtered under suction and washed with acetone. This 3[[(5-methyl-1,3,4-thiadiazol-2-yl)thio]methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid is purified by dissolving in sodium bicarbonate solution and reprecipitating with 2N hydrochloric acid; yield 12.7 g., m.p. 206°.

reactant | 7-aminocephalosporanic acid | 0.05 M | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-methyl-1,3,4-thiadiazole-5-thiol | 0.57 M | CN1CSC(=N1)S | C3H6N2S2
reactant | hydrochloric acid | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-[[(5-Methyl-1,3,4-thiadiazol-2-yl)thio]methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | CC1=NN=C(S1)SCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C11H12N4O3S3
